US07238808B2
5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrazin-2-ylamine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (178 mg, 0.5 mmol) and commercially available 2-amino-5-bromo-pyrazine (87 mg, 0.5 mmol) according to general procedure II. Obtained as an orange solid (63 mg, 28%). MS (EI) 448.0 [(M)+]; mp 200° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 2-amino-5-bromo-pyrazine | 0.5 mmol, 87 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
product | 5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrazin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2N=CC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C20H10F6N6
